US08445510B2
3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
A suspension of 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (303.8 mg, 0.7919 mmol), bis(pinacolato)diboron (294.2 mg, 1.158 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (70.7 mg, 0.0966 mmol), and potassium acetate (239.0 mg, 2.435 mmol) in dioxane (7 mL) was heated at 80° C. over the course of 20.5 h. The reaction flask was removed from the heat and additional reagents [bis(pinacolato)diboron (290.3 mg, 1.143 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (59.7 mg, 0.0816 mmol), and potassium acetate (245.6 mg, 2.502 mmol)] in dioxane (3 mL) were added. The reaction was then heated again at 80° C. for an additional 8 h. The reaction was again removed from the heat and additional reagents [bis(pinacolato)diboron (319.9 mg, 1.260 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (79.8 mg, 0.109 mmol), and potassium acetate (267.2 mg, 2.722 mmol)] in dioxane (3 mL) were added and the reaction mixture was heated to 80° C. for an additional 4 h. The reaction was cooled to ambient temperature and concentrated in vacuo. The crude material was dissolved in a mixture of CH2Cl2 and MeOH, adsorbed onto a pre-packed silica gel loading cartridge (RediSep Rf, 25 gram), and purified using the Teledyne ISCO system [RediSepRf (24 gram silica column)], using a 30-50% EtOAc:Heptane gradient. All fractions containing product were pooled together and concentrated in vacuo. The material was purified a second time via the Teledyne/ISCO system [RediSepRf 5 g preloaded silica cartridge/12 g silica column], eluting with a 10-80% EtOAc:Heptane solvent system. The fractions containing product were combined and concentrated in vacuo. The product residue was dissolved in minimal EtOAc and precipitated with heptane; the solid was filtered off and dried, giving the title compound as off-white solid. The filtrate was concentrated in vacuo and recrystallized a second time, giving a second crop of the title compound. 1H NMR (DMSO-d6) δ=11.53 (s, 1H), 8.36 (d, J=1.5 Hz, 1H), 7.92 (s, 1H), 7.33 (d, J=1.3 Hz, 1H), 7.25 (t, J=9.0 Hz, 1H), 7.02 (dd, J=9.2, 4.4 Hz, 1H), 5.04 (q, J=7.1 Hz, 1H), 3.75 (br s, 3H), 1.74 (d, J=7.3 Hz, 3H), 1.28 (d, J=2.0 Hz, 12H). MS (ES+): m/z 429.96/430.91/432.96 (49/100/73) [MH+]. HPLC: tR=4.02 min (ZQ3, polar—5 min).

reactant | 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 0.7919 mmol, 303.8 mg | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C16H13BrClFN2O
reactant | bis(pinacolato)diboron | 1.158 mmol, 294.2 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.435 mmol, 239.0 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.143 mmol, 290.3 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.502 mmol, 245.6 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.260 mmol, 319.9 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.722 mmol, 267.2 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.0966 mmol, 70.7 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.0816 mmol, 59.7 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.109 mmol, 79.8 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
